US07662831B2
Following the procedure of Example 1, Step 4, 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine (0.10 g, 0.42 mmol), cyclohexanecarbonyl chloride (0.056 mL, 0.42 mmol) and poly-(4-vinylpyridine) (600 mg) in dichloroethane (15 mL) provided 79 mg of N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-ylcyclohexanecarboxamide. MS (ES) m/z 351.2; HPLC purity 100% at 210-370 nm, 11.3 min.; 99.5% at 252 nm, 11.3 min. (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 ((Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C23H30N2O+H+, 351.24309; found (ESI, [M+H]+), 351.2443.

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine | 0.42 mmol, 0.10 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)N | C16H20N2
reactant | cyclohexanecarbonyl chloride | 0.42 mmol, 0.056 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-ylcyclohexanecarboxamide | 79 mg | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)NC(=O)C1CCCCC1 | C23H30N2O
